US07071331B2
A 100 liter reactor equipped with mechanical stirrer, condenser, and thermometer, was charged with n-BuOH (40.5 L), 11-piperazinyl dibenzo[b,f][1,4]thiazepinehydrochloride (15 kg), Na2CO3 (7.5 kg), TBAB (1.5 kg) and 2-(2-chloroethoxy)ethanol (5.25 L). The mixture was heated to 115° C. during which time a portion of the n-BuOH and water distilled out. The distillation was continued until all of the theoretical amount of water was distilled out and the vapor temperature dropped. The reaction mixture was stirred at a rate of 120 rpm. The temperature was maintained for 26.5 hours until completion of the reaction. The reaction mixture was cooled to 25° C. during 3 hours. The mixture was filtered on a filter press. The filtrate was filtered into another 160 liter reactor (5μ and 1μ filters), equipped with mechanical stirrer, condenser, and thermometer. To the filtrate, 2.24 kg of fumaric acid was added. The resulting mixture was heated to 100° C. over 2 hours and then cooled to 5° C. over 2 hours. The mixture was maintained at this temperature, with stirring, for an additional one hour. The resulting slurry was separated on a centrifuge and washed with n-BuOH (30L) and ethanol absolute (30L) to obtain 16.7 kg of wet, crude quetiapine fumarate.

reactant | n-BuOH | 40.5 L | CCCCO | C4H10O
reactant | 11-piperazinyl dibenzo[b,f][1,4]thiazepinehydrochloride | 15 kg | Cl.N1(CCNCC1)C1=NC2=C(SC3=C1C=CC=C3)C=CC=C2
reactant | Na2CO3 | 7.5 kg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-(2-chloroethoxy)ethanol | 5.25 L | ClCCOCCO | C4H9ClO2
catalyst | TBAB | 1.5 kg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | water | O | H2O
product | quetiapine fumarate | C=1C=CC2=C(C1)C(=NC=3C=CC=CC3S2)N4CCN(CC4)CCOCCO.C(=C/C(=O)O)\C(=O)O | InChI=1S/C21H25N3O2S.C4H4O4/c25-14-16-26-15-13-23-9-11-24(12-10-23)21-17-5-1-3-7-19(17)27-20-8-4-2-6-18(20)22-21;5-3(6)1-2-4(7)8/h1-8,25H,9-16H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
